US07709483B2
(h) 2-[Bis(methyloxy)methyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one
To crude 2-[bis(methyloxy)methyl]-4-chloro-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one (prepared from 1.43 g 4-chloro-7-oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde) dissolved in MeOH (50 mL) was added 10% Pd/C (wet) (0.15 g). The solution was stirred under an atmosphere of H2 (balloon) overnight. The Pd/C was filtered off and the solution concentrated under vacuum. The crude residue was purified by column chromatography (silica gel) using a DCM/DCM-MeOH—NH4OH (90:10:1) gradient to yield the desired product as a white solid (0.873 g, 58% over 2 steps).

reactant | 2-[bis(methyloxy)methyl]-4-chloro-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one | 1.43 g | COC(C=1N=C(C2=C(N1)NC(CC2)=O)Cl)OC | C10H12ClN3O3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 2-[Bis(methyloxy)methyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one | 0.873 g, 58% | COC(C=1N=CC2=C(N1)NC(CC2)=O)OC | C10H13N3O3
